US07402608B2
3-[(4-Hydroxy-cyclohexyl)-(4-methyl-cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester (62 mg, 0.136 mmol) was dissolved in benzene (0.7 ml) and then p-nitrobenzoic acid (27 mg, 0.163 mmol) and triphenylphosphine (43 mg, 0.163 mmol) were added. The resulting solution was cooled in an ice bath and diethyl azodicarboxylate (26 ul, 0.163 mmol) was added. After stirring at room temperature for 22 hours, the solvents were removed and the residue was purified by preparative chromatography (30% EtOAc/Hexane) to obtain 44 mg (54%) of 3-{(4-Methyl-cyclohexanecarbonyl)-[4-(4-nitro-benzoyloxy)-cyclohexyl]-amino}-5-phenyl-thiophene-2-carboxylic acid methyl ester.

reactant | 3-[(4-Hydroxy-cyclohexyl)-(4-methyl-cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.136 mmol, 62 mg | COC(=O)C=1SC(=CC1N(C(=O)C1CCC(CC1)C)C1CCC(CC1)O)C1=CC=CC=C1 | C26H33NO4S
reactant | p-nitrobenzoic acid | 0.163 mmol, 27 mg | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | triphenylphosphine | 0.163 mmol, 43 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.163 mmol, 26 ul | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | benzene | 0.7 ml | C1=CC=CC=C1 | C6H6
product | 3-{(4-Methyl-cyclohexanecarbonyl)-[4-(4-nitro-benzoyloxy)-cyclohexyl]-amino}-5-phenyl-thiophene-2-carboxylic acid methyl ester | 44 mg, 54% | COC(=O)C=1SC(=CC1N(C1CCC(CC1)OC(C1=CC=C(C=C1)[N+](=O)[O-])=O)C(=O)C1CCC(CC1)C)C1=CC=CC=C1 | C33H36N2O7S
